US08383644B2
(S)-2-({(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-7-dimethylsulfamoyl-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid
(S)-2-({(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester bis hydrochloride was coupled with N,N-dimethylsulfamoyl chloride according to General Procedure E. The resulting compound was hydrolyzed according to General Procedure B to give the title compound (9 mg). LCMS (m/z) 862.

reactant | (S)-2-({(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester bis hydrochloride | Cl.Cl.COC([C@H](CC1=CC=C(C=C1)OC1=C(C(=NC=C1)C)C)NC(=O)[C@H]1NCC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)=O
reactant | N,N-dimethylsulfamoyl chloride | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
product | (S)-2-({(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-7-dimethylsulfamoyl-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid | 9 mg | ClC=1C=C(COC2=CC=C(C=C2)[C@@H]2OC=3C(=CC=4C[C@H](N(CC4C3)S(N(C)C)(=O)=O)C(=O)N[C@H](C(=O)O)CC3=CC=C(C=C3)OC3=C(C(=NC=C3)C)C)OC2)C=CC1Cl | C43H42Cl2N4O9S
